US04297096
To hydrazine hydrate (50 ml) was added dropwise benzaldehyde (10 ml) under ice-cooling. The mixture was stirred for 2 hours at ambient temperature. After water was added to the mixture, the resultant mixture was extracted with chloroform, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give a residue, which was dissolved in dry ether. To the solution was added triethylamine (13.80 ml) and then trimethylchlorosilane (12.57 ml). The reaction mixture was stirred for 2 hours at ambient temperature. Insoluble materials were removed by filtration. The filtrate was concentrated under reduced pressure to give a residue, to which was added dichloromethane (30 ml). Nitrogen trioxide was passed through the reaction mixture for 3 hours at -20° C. The resultant mixture was poured into ice water. The organic layer was separated, washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give oily 1-hydroxy-3-benzylidenetriazene (1.7 g).

reactant | hydrazine hydrate | 50 ml | O.NN
reactant | benzaldehyde | 10 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | trimethylchlorosilane | 12.57 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | Nitrogen trioxide | N(=O)[N+](=O)[O-] | N2O3
solvent | ether | CCOCC | C4H10O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | triethylamine | 13.80 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | 1-hydroxy-3-benzylidenetriazene | 1.7 g | ON=NN=CC1=CC=CC=C1 | C7H7N3O
